US08877760B2
To a mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-4-methylpentanamide (75 mg, 0.28 mmol) in toluene (1.5 mL) and dioxane (0.5 mL) was added m-toluidine (45 mg, 0.42 mmol), Pd(dba)2 (16 mg, 0.028 mmoL), Q-Phos (30 mg, 0.042 mmol) and Cs2CO3 (274 mg, 0.84 mmol). After heating at 95° C. for 15 h, the mixture was filtered, the filtrate was concentrated and purified by column chromatography to give (R)-2-(5-cyano-6-(m-tolylamino)pyrazin-2-ylamino)-4-methylpentanamide.

reactant | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-4-methylpentanamide | 0.28 mmol, 75 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC(C)C)C#N | C11H14ClN5O
reactant | m-toluidine | 0.42 mmol, 45 mg | NC1=CC(=CC=C1)C | C7H9N
reactant | Cs2CO3 | 0.84 mmol, 274 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dba)2 | 16 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | Q-Phos | 0.042 mmol, 30 mg | CC(C)(C)P([C-]1C=CC=C1)C(C)(C)C.C1=CC=C(C=C1)[C-]2C(=C(C(=C2C3=CC=CC=C3)C4=CC=CC=C4)C5=CC=CC=C5)C6=CC=CC=C6.[Fe+2]
product | (R)-2-(5-cyano-6-(m-tolylamino)pyrazin-2-ylamino)-4-methylpentanamide | C(#N)C=1N=CC(=NC1NC=1C=C(C=CC1)C)N[C@@H](C(=O)N)CC(C)C | C18H22N6O
